US08633175B2
Step 2: 5-(3-Hydroxyphenyl)-2-thiophenecarboxamide
The mixture of ethyl 5-{3-[(2-oxoethyl)oxy]phenyl}-2-thiophenecarboxylate (1.3 g, 4.48 mmol), 2N aqueous lithium hydroxide solution (5 ml, 10 mmol) and tetrahydrofuran (10 ml) was heated to reflux for 12 h. The reaction mixture was cooled, concentrated in vacuo to remove tetrahydrofuran, acidified to pH1-2 with 2N HCl, and extracted with ethyl acetate three times. The combined extracts were washed with brine, dried over magnesium sulfate and concentrated in vacuo. The solid residue (0.75 g) was dissolved in dry tetrahydrofuran (15 ml) and cooled to 0° C. (Chloromethylene)dimethylammonium chloride (Aldrich, 0.52 g, 4 mmol) was added in one portion. The mixture was stirred at 0° C. for 4 h. The pre-cooled (0° C.) mixture of 28% ammonium hydroxide aqueous solution (2.5 ml) and water (2.5 ml) was added, and the reaction mixture was stirred at the room temperature. Tetrahydrofuran was removed in vacuo and the residue was extracted with ethyl acetate three times. The combined extracts were washed with brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (80% ethyl acetate in hexanes) to give the title compound as a brown solid.

reactant | ethyl 5-{3-[(2-oxoethyl)oxy]phenyl}-2-thiophenecarboxylate | 4.48 mmol, 1.3 g | O=CCOC=1C=C(C=CC1)C1=CC=C(S1)C(=O)OCC | C15H14O4S
reactant | lithium hydroxide | 10 mmol, 2N, 5 ml | [OH-].[Li+]
reactant | (Chloromethylene)dimethylammonium chloride | 4 mmol, 0.52 g | [Cl-].ClC=[N+](C)C
reactant | ammonium hydroxide | 2.5 ml | [OH-].[NH4+]
solvent | water | 2.5 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-(3-Hydroxyphenyl)-2-thiophenecarboxamide | OC=1C=C(C=CC1)C1=CC=C(S1)C(=O)N | C11H9NO2S
